US09023858B2
B) 7-[(4-methoxybenzyl)amino]-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one
A mixture of 7-chloro-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one (200 mg), 4-methoxybenzylamine (181 μl), copper(I) iodide (57 mg), potassium carbonate (166 mg) and N,N-dimethylformamide (3 ml) was stirred at 130° C. for 2 hr. To the reaction mixture were added saturated aqueous ammonium chloride solution and water, and the precipitate was collected by filtration, and dissolved in tetrahydrofuran. The solution was filtered through celite, and concentrated under reduced pressure. The residue was dissolved in a mixed solvent of ethyl acetate/tetrahydrofuran, and the solution was washed with aqueous ammonia solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the white title compound (108 mg).

reactant | 7-chloro-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 200 mg | ClC=1C=CC2=C(NC(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)=S)N1 | C15H9ClF3N3O2S
reactant | 4-methoxybenzylamine | 181 μl | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | copper(I) iodide | 57 mg | [Cu]I
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 7-[(4-methoxybenzyl)amino]-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one | 108 mg | COC1=CC=C(CNC=2C=CC3=C(NC(N(C3=O)C3=CC=C(C=C3)OCC(F)(F)F)=S)N2)C=C1 | C23H19F3N4O3S
